US07977351B2
7H-Furo[3,4-b]pyridin-5-one
A solution of furo[3,4-b]pyridine-5,7-dione (3.0 g, 20 mmol) in THF (20 mL) is treated with sodium borohydride (0.75 g, 20 mmol). The reaction mixture is placed under an argon atmosphere and the temperature is maintained at 15° C. with a water bath. Acetic acid (2.4 g, 39 mmol) is added dropwise at 15° C. The reaction mixture is stirred for 4 h and is then concentrated on a rotary evaporator. The crude residue is then treated with acetic acid (8 mL.) and acetic anhydride (8.0 mL) and heated at 100° C. overnight. The reaction mixture is cooled and concentrated. The residue is purified by chromatography (silica gel, gradient elution 30% EtOAc/hexane to 50% EtOAc/hexane). The product containing fractions are concentrated to give the title compound as a white solid (360 mg, 27%).

reactant | furo[3,4-b]pyridine-5,7-dione | 20 mmol, 3.0 g | N1=C2C(=CC=C1)C(OC2=O)=O | C7H3NO3
reactant | sodium borohydride | 20 mmol, 0.75 g | [BH4-].[Na+]
reactant | Acetic acid | 39 mmol, 2.4 g | C(C)(=O)O | C2H4O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 7H-Furo[3,4-b]pyridin-5-one | 360 mg, 27% | N1=C2C(=CC=C1)C(OC2)=O | C7H5NO2
